US05607934
0.41 g of dicyclohexylcarbodiimide was added to 20 ml of a solution of 0.91 g of N-(N-benzyloxyleucyl)-α-[N-(3-methoxybenzyl)]carbamoylglycine and 0.23 g of N-hydroxysuccinimide in anhydrous dioxane. The mixture was stirred at room temperature for 16 hours. The reaction mixture was filtered to remove the insoluble materials. The filtrate was diluted with 50 ml of ethyl acetate. The resulting solution was washed with 1N hydrochloric acid and an aqueous solution saturated with sodium hydrogen carbonate, then dried with anhydrous magnesium sulfate, and subjected to distillation to remove the solvent, to obtain 0.81 g of 1-benzyloxy-6-isobutyl-3-[N-(3-methoxybenzyl)]carbamoylpiperazine-2,5-dione as a mixture of a cis form and a trans form.

reactant | dicyclohexylcarbodiimide | 0.41 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-(N-benzyloxyleucyl)-α-[N-(3-methoxybenzyl)]carbamoylglycine | 0.91 g | C(C1=CC=CC=C1)ON[C@@H](CC(C)C)C(=O)NC(C(=O)O)C(NCC1=CC(=CC=C1)OC)=O | C24H31N3O6
reactant | N-hydroxysuccinimide | 0.23 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-benzyloxy-6-isobutyl-3-[N-(3-methoxybenzyl)]carbamoylpiperazine-2,5-dione | 0.81 g | C(C1=CC=CC=C1)ON1C(C(NC(C1CC(C)C)=O)C(NCC1=CC(=CC=C1)OC)=O)=O | C24H29N3O5
